US09403833B2
Step 1: 2-(2-Fluorophenyl)-5-methyl-1H-pyrazol-3(2H)-one
A stirred suspension of 2-fluorophenylhydrazine hydrochloride (1000 g, 5535 mmol) in acetic acid (1000 ml) and water (1000 ml) was heated at 45° C. Ethylacetoacetate (700 ml) was added dropwise over 30 mins and this was stirred at 88° C. for 2 hr. The resulting mixture was cooled to 5° C. and poured onto ice (3000 g) and DCM (4500 ml). 30% NaOH (aq) (2400 ml) was added and the mixture was stirred for 15 mins, then separated and extracted with DCM (1500 ml). The organic extracts were washed with 1M NaOH (aq) (1500 ml). The aqueous phases were combined and ice (1500 g) and DCM (3600 ml) were added. To the stirred mixture was added 32% HCl (aq) (2400 ml) until the pH was adjusted to pH 1-2. The biphasic mixture was separated, extracted with DCM (1500 ml) and the organic extracts washed with brine/water 4:1 (2000 ml), dried over MgSO4 and evaporated to dryness to give a dark solid. To a stirred solution of the crude product in DCM (2000 ml) was added silica gel (350 g). This was filtered and the filtrate was evaporated. Purification by chromatography with MeOH in EtOAc gave the title compound as a light yellow solid.

reactant | 2-fluorophenylhydrazine hydrochloride | 5535 mmol, 1000 g | Cl.FC1=C(C=CC=C1)NN
reactant | Ethylacetoacetate | 700 ml | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | NaOH | 2400 ml | [OH-].[Na+]
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
solvent | water | 1000 ml | O | H2O
solvent | DCM | 2000 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 4500 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Fluorophenyl)-5-methyl-1H-pyrazol-3(2H)-one | FC1=C(C=CC=C1)N1NC(=CC1=O)C | C10H9FN2O
